US08242104B2
To a slurry of NaH (60% dispersion in mineral oil) (1.48 g, 37.1 mmol) in THF (˜50 mL) at room temperature was added 1-(5-bromo-2-(2-bromoethoxy)phenyl)ethanone (8.07 g, 25.1 mmol). The reaction mixture was slowly heated to reflux and allowed to stir for 20 h. The solvent was removed under vacuum pressure and the concentrated residue was absorbed onto silica gel and purified by column chromatography (4:1 ethyl acetate/petroleum ether). The product was afforded as a yellow oil after the solvents were removed, providing 4.22 g (70%) of 7-bromo-3,4-dihydrobenzo[b]oxepin-5(2H)-one. 1H NMR (CDCl3) δ 7.87 (d, J=2.6 Hz, 1H), 7.50 (dd, J=2.6, 8.1 Hz, 1H), 6.97 (d, J=8.8 Hz, 2H), 4.24 (t, J=6.6 Hz, 2H), 2.89 (t, J=7.0 Hz, 2H), 2.15-2.29 (m, 2H).

reactant | NaH | 37.1 mmol, 1.48 g | [H-].[Na+]
reactant | 1-(5-bromo-2-(2-bromoethoxy)phenyl)ethanone | 25.1 mmol, 8.07 g | BrC=1C=CC(=C(C1)C(C)=O)OCCBr | C10H10Br2O2
solvent | THF | ˜50 mL | C1CCOC1 | C4H8O
product | 7-bromo-3,4-dihydrobenzo[b]oxepin-5(2H)-one | 4.22 g, 70% | BrC1=CC2=C(OCCCC2=O)C=C1 | C10H9BrO2
